US08076329B2
To a solution of 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}piperidine (250 mg) in methanol (3 mL) is added sodium borohydride (15 mg). The mixture is stirred for two days at room temperature, then concentrated under reduced pressure and purified by column chromatography on silica gel (eluent dichloromethane/methanol/ammonia from 99.5/0.5/0.05 to 99/1/0.1) to give 179 mg of crude base which is dissolved in ethanol (2 mL). A solution of oxalic acid (50 g) in ethanol (1 mL) is added. A white precipitate appears which is filtered, rinsed with diethyl ether and dried under reduced pressure to give 127 mg of 1-{3-[4-(4-hydroxycyclohexyl)phenoxy]propyl}piperidine as a white solid

reactant | 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}piperidine | 250 mg | O=C1CCC(CC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C20H29NO2
reactant | sodium borohydride | 15 mg | [BH4-].[Na+]
reactant | oxalic acid | 50 g | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 3 mL | CO | CH4O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-{3-[4-(4-hydroxycyclohexyl)phenoxy]propyl}piperidine | 127 mg | OC1CCC(CC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C20H31NO2
